US04371734
Methyl 4-phenylthiazolylcyanoacetate
90 parts of phenacyl thiocyanate are introduced into a mixture of 150 parts of DMF, 150 parts of triethylamine and 50 parts of methyl cyanoacetate. The mixture is then stirred for 4 hours at room temperature, after which it is introduced into water and the batch is acidified with acetic acid. The product which precipitates is filtered off and dried in an oven.

reactant | phenacyl thiocyanate | C(C(=O)C1=CC=CC=C1)SC#N | C9H7NOS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methyl cyanoacetate | C(#N)CC(=O)OC | C4H5NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | Methyl 4-phenylthiazolylcyanoacetate | C1(=CC=CC=C1)C=1N=C(SC1)C(C(=O)OC)C#N | C13H10N2O2S
